US07022460B2
4-(2-Hydroxyethyloxy)-3,4′-dicyanoazobenzene
15 g (4-(2-hydroxyethyloxy)-3-bromo-4′-cyanoazobenzene are dissolved in 25 ml hot DMF. 4.3 g copper cyanide are then added and the reaction mixture is stirred at 140° C. for 5–6 hours. This solution is added to approx. 500 ml of a 13% aqueous ammonia solution and the precipitate is filtered off. The precipitate is dissolved in hot dioxane. The solution is filtered off from the undissolved residue, the dioxane is evaporated off on a rotary evaporator and the product is purified by chromatography on silica gel in toluene/THF (½) and recrystallized once from ethanol. The yield of 4-(2-hydroxyethyloxy)-3,4′-dicyanoazobenzene is 4.5 g. M.p.=138° C.; max=356 nm (DMF).

reactant | 4-(2-hydroxyethyloxy)-3-bromo-4′-cyanoazobenzene | OCCOC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)C#N)Br | C15H12BrN3O2
reactant | copper cyanide | 4.3 g | [Cu](C#N)C#N
reactant | ammonia | N | H3N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(2-Hydroxyethyloxy)-3,4′-dicyanoazobenzene | OCCOC1=C(C=C(C=C1)N=NC1=CC=C(C=C1)C#N)C#N | C16H12N4O2
